Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right arm pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of osteoarthritis s/p bilateral hip
replacements in ___ and recent left hip prosthetic joint
infection due to coagulase negative staphylococcus treated with
vancomycin via right PICC who presents with right upper 
extremity
DVT. He reports the sudden onset of right upper extremity the 
day
prior to admission and pain in his wrist. He says that he felt
pain in the antecubital fossa to the undersurface of his wrist
preventing him from fully flexing all digits. He had a 
ultrasound
as an outpatient that then revealed a right brachial vein
thrombosis. He denies fever, chills, shortness of breath. 

In terms of his PJI, he developed purulent drainage from the 
left
hip in ___. He was admitted and underwent revision hip
arthroplasty, excision of draining sinus, implant antibiotic
spacer and complex closure on ___. He completed a course of IV
vancomycin on ___. He was then transitioned to a suppressive
oral regimen with minocycline 100 mg BID for planned ___ months. 


- In the ED, initial vitals were:
T 97.2F HR 65 BP 129/64 RR 14 O2 98% RA 

- Exam was notable for:
"Right wrist is warm and erythematous, if he came tenderness to
palpation over the extensor surface of the wrist. Patient has
significant pain ulnar deviation of the wrist. Decreased grip
strength secondary to pain is neurovascularly intact."

- Labs were notable for:
WBC 10.5 Hgb 13.4 Plt 314 
Cr 1.4 BUN 15, otherwise BMP unremarkable 
LFTs and lipase unremarkable 

- Studies were notable for:
Right upper extremity duplex US
Acute, nonocclusive thrombus of 1 of the paired right brachial
veins.

- The patient was given:
IV heparin
IV ceftriaxone 1 g
PO acetaminophen 1000 mg 
1L LR 

On arrival to the floor, he feels that the pain has improved
since starting heparin. He is now better able to move his
fingers. He denies ever having had a blood clot. He denies any
chest pain, shortness of breath, abdominal pain, nausea,
vomiting, or diarrhea. 

 
Past Medical History:
Osteoarthritis s/p bilateral hip replacements 
Left hip prosthetic joint infection 
Lumbar disc disease with radiculopathy 
Lumbar spinal stenosis 
Dyslipidemia
Back pain
Neuropathy in feet/muscle cramps
 
Social History:
___
Family History:
No family history of blood clots. Father with CAD. 
No history of miscarriages.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:
___ 2344 Temp: 97.7 PO BP: 148/77 HR: 60 RR: 17 O2 sat: 97%
O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: Right hand with mild swelling, tenderness and
erythema distal to the elbow. No clear cellulitis. Pulses
DP/Radial 2+ bilaterally.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously.

DISCHARGE PHYSICAL EXAM:
========================
VITALS:
___ 0340 Temp: 97.4 PO BP: 132/70 HR: 59 RR: 16 O2 sat: 96%
O2 delivery: ra 

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: Right hand with mild swelling, tenderness and
erythema distal to the elbow. No clear cellulitis. Pulses
DP/Radial 2+ bilaterally.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 03:05PM   WBC-10.5* RBC-5.29 HGB-13.4* HCT-42.9 MCV-81* 
MCH-25.3* MCHC-31.2* RDW-14.5 RDWSD-42.5
___ 03:05PM   NEUTS-70.3 LYMPHS-16.4* MONOS-9.2 EOS-2.8 
BASOS-0.8 IM ___ AbsNeut-7.38* AbsLymp-1.72 AbsMono-0.96* 
AbsEos-0.29 AbsBaso-0.08
___ 03:05PM   PLT COUNT-314
___ 03:05PM   ___ PTT-26.4 ___
___ 03:05PM   GLUCOSE-114* UREA N-15 CREAT-1.4* SODIUM-140 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-25 ANION GAP-14
___ 03:05PM   ALT(SGPT)-32 AST(SGOT)-23 ALK PHOS-100 TOT 
BILI-0.7
___ 03:05PM   LIPASE-32
___ 03:05PM   ALBUMIN-4.6
___ 10:03PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:03PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG

DISCHARGE LABS:
===============
___ 03:33AM BLOOD WBC-7.5 RBC-4.49* Hgb-11.5* Hct-36.6* 
MCV-82 MCH-25.6* MCHC-31.4* RDW-14.4 RDWSD-42.4 Plt ___
___ 03:33AM BLOOD ___ PTT-150* ___
___ 03:33AM BLOOD Glucose-116* UreaN-18 Creat-1.2 Na-143 
K-4.3 Cl-108 HCO3-24 AnGap-11

IMAGING/STUDIES:
================
___ ___ DUP UPPER EXT UNILA
Acute, nonocclusive thrombus of 1 of the paired right brachial 
veins.

___ WRIST(3 + VIEWS) RIGHT
Subcutaneous edema.  No radiographic evidence of osteomyelitis.
 
Brief Hospital Course:
___ with a history of osteoarthritis s/p bilateral hip 
replacements in ___ and recent left hip prosthetic joint 
infection due to coagulase negative staphylococcus being treated 
with vancomycin via who presents with right upper extremity DVT. 


Acute issues:
============
# Upper extremity DVT
He was recently treated with a prolonged course of vancomycin 
for
a prosthetic joint infection via a PICC, likely triggering the
blood clot. He has no family or personal history of clots. No
concerning symptoms or signs of pulmonary embolism. He is due to
have a revision of his left hip sometime upcoming and
anticoagulation may delay his procedure. His orthopedic surgery 
team was notified of the initiation of a blood thinner. He has 
mild erythema likely secondary to DVT and not cellulitis, so no 
antibiotics were administered. He was started on heparin IV and 
transitioned to rivaroxaban given this was provoked in the 
setting of PICC. His erythema and pain improved with IV heparin. 
He should continue rivaroxaban for a total of ___ months. He 
should follow up with his PCP for this. He did not require any 
pain medications while in-house. He can take Tylenol for pain on 
discharge.

Chronic issues:
===============
# Left hip PJI 
S/p vancomycin and now on suppressive minocycline. He has an
antibiotic spacer in place and this will eventually need
revision: Stopped home minocycline and per Dr. ___ 
___, he was transitioned to clindamycin 300mg Q8h. 
She will call him to schedule an ID follow-up. He has follow up 
with orthopedic surgery on ___.

# Dyslipidemia / Primary prevention: Continued home statin. 
Stopped aspirin given that patient was started on rivaroxaban as 
above.

TRANSITIONAL ISSUES:
====================
NEW MEDICATION: 
--- Rivaroxaban- 15mg Twice daily for 21 days, then 20mg Daily 
afterward. Continue 20mg daily until PICC is removed / for ___ 
months.
--- Clindamycin 300mg Q8h
CHANGED MEDICATION: None
STOPPED MEDICATIONS: Aspirin, minocycline

[] Encourage follow-up with PCP for pain resolution of DVT and 
for reassessment of need for rivaroxaban after ___ months.
[] Continue clindamycin until follow up appointment with Dr. 
___
[] Patient will follow up with orthopedic surgery regarding 
prosthetic joint infection. Surgery team was notified of 
initiation of anticoagulation with rivaroxaban.

# CODE: full 
# CONTACT: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. melatonin 5 mg oral QHS:PRN sleep disturbance 
3. Multivitamins 1 TAB PO DAILY 
4. Aspirin EC 81 mg PO BID 
5. Minocycline 100 mg PO Q12H 

 
Discharge Medications:
1.  Clindamycin 300 mg PO Q8H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every eight (8) 
hours Disp #*84 Capsule Refills:*0 
2.  Rivaroxaban 15 mg PO BID 
with food 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablet(s) by 
mouth twice a day Disp #*1 Dose Pack Refills:*0 
3.  Atorvastatin 20 mg PO QPM  
4.  melatonin 5 mg oral QHS:PRN sleep disturbance  
5.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
=================
Deep vein thrombosis secondary to PICC

Secondary diagnosis:
====================
Recent left hip prosthetic joint infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for coming to ___!

Why were you admitted?
- You were admitted for pain in your right arm, and you were 
found to have a deep vein thrombosis (DVT) related to your prior 
___ line

What happened while you were in the hospital?
- You were started on a heparin drip (blood thinner)
- There was no evidence of infection.
- We did not think further blood tests (to evaluate for 
coagulation or clotting disorders) were warranted
- You were transitioned to an oral blood thinner

What should you do when you leave the hospital?
- You have one new medication (rivaroxaban): You should take 
15mg tablet twice daily for 21 days. Then transition to the 20mg 
tablet once daily. You should continue this until for a total of 
___ months. You should follow up with your PCP for this.
- You do not need to take aspirin while you are on this blood 
thinner.
- Your antibiotic was changed from minocycline to clindamycin 
after discussion with Dr. ___. She will call you to 
schedule a follow-up.
- If you have worsening pain, then you should call your doctor 
or come back.

It was a pleasure taking care of you! We wish you all the best.
- Your ___ Team
 
Followup Instructions:
___